.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=26e-6 L=1e-6
M2 net_2 in2 net_1 net_1 pmos W=26e-6 L=1e-6
M3 net_0 bias_n_1b source_nmos source_nmos nmos W=26e-6 L=1e-6
M4 net_4 bias_n_1t net_0 net_0 nmos W=26e-6 L=1e-6
M5 net_2 bias_n_1b source_nmos source_nmos nmos W=26e-6 L=1e-6
M6 outfirststage bias_n_1t net_2 net_2 nmos W=26e-6 L=1e-6
M7 net_6 net_7 source_pmos source_pmos pmos W=1e-6 L=1e-6
M8 net_4 net_4 net_6 net_6 pmos W=1e-6 L=1e-6
M9 net_7 net_7 source_pmos source_pmos pmos W=1e-6 L=1e-6
M10 outfirststage net_4 net_7 net_7 pmos W=1e-6 L=1e-6
M11 net_1 ibias source_pmos source_pmos pmos W=10e-6 L=1e-6
M12 out ibias source_pmos source_pmos pmos W=10e-6 L=1e-6
M13 out outfirststage source_nmos source_nmos nmos W=2e-6 L=1e-6
M14 bias_n_1b bias_n_1b source_nmos source_nmos nmos W=26e-6 L=1e-6
M15 bias_n_1t bias_n_1t bias_n_1b bias_n_1b nmos W=26e-6 L=1e-6
M16 ibias ibias source_pmos source_pmos pmos W=10e-6 L=1e-6
M17 bias_n_1t ibias source_pmos source_pmos pmos W=10e-6 L=1e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
